US04282372
2.5 Grams of sodium acetate was added at 30° C. to a mixture of 3-allyl-4-methyl-pent-4-en-2-one (5.0 g) and dichloromethane (100 ml), and then a 9% peracetic acid solution (153 g) was added dropwise thereto over 1 hour. After stirring at 30° C. for 4 hours, the reaction solution was treated in the same manner as in Example 3 to obtain 1.20 g of pure 3-allyl-4-methyl-4,5-epoxy-pentan-2-one.

reactant | sodium acetate | C(C)(=O)[O-].[Na+]
reactant | 3-allyl-4-methyl-pent-4-en-2-one | 5.0 g | C(C=C)C(C(C)=O)C(=C)C | C9H14O
reactant | peracetic acid | 153 g | C(C)(=O)OO | C2H4O3
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 3-allyl-4-methyl-4,5-epoxy-pentan-2-one | 1.20 g | C(C=C)C(C(C)=O)C1(CO1)C | C9H14O2
